US07402595B2
2-benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
Sodium hydride (60% in oil, 400 mg) was added to benzyl alcohol (6 ml) under ice-cooling, and the mixture was allowed to warm to room temperature and stirred for 30 min. To the reaction mixture was added 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (310 mg) and the mixture was stirred at 120° C. for 6 hrs. To the reaction mixture were added water and 10% hydrochloric acid to acidify the aqueous layer of the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from diisopropyl ether-hexane and the crystals were collected by filtration. Recrystallization (ethyl acetate-hexane) gave the title compound (250 mg).

reactant | Sodium hydride | 400 mg | [H-].[Na+]
reactant | benzyl alcohol | 6 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 310 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)F)=O | C23H16FNO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 250 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C30H23NO4
